US05587389
7. 2-{[[3-Methoxy-4-(2-thienylmethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole
2-Chloromethyl-3-methoxy-4-(2-thienylmethylthio)pyridine hydrochloride, 2-mercapto-1H-benzimidazole and sodium hydroxide are reacted in ethanol at 25° C. for 20 h. After crystallization from toluene/methanol, the title compound is isolated. Yield: 56%, m.p. 124°-127° C. 8. 2-{[[4-(2-Thienylmethylthio)-2,pyridinyl]methyl]thio}-1H-benzimidazole

reactant | 2-Chloromethyl-3-methoxy-4-(2-thienylmethylthio)pyridine hydrochloride | Cl.ClCC1=NC=CC(=C1OC)SCC=1SC=CC1
reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-{[[3-Methoxy-4-(2-thienylmethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole | Yield: 56% | COC=1C(=NC=CC1SCC=1SC=CC1)CSC1=NC2=C(N1)C=CC=C2 | C19H17N3OS3
